US04469872
To a solution of acetone N,N-dimethylhydrazone (6.5 mmol) in tetrahydrofuran (THF; 15 ml) under nitrogen is added lithium diisopropylamide (LDA; 7.2 mmol) in THF (15 ml) at 0° for 5 hours. The resulting solution is cooled to -78°, and to it is added 2-[4-(4-trifluoromethylphenoxy)phenoxy]propanal (7.2 mmol). After 1 hour at -78°, the reaction mixture is allowed to warm to 0° and is poured into water/methylene chloride (3:1). The organic phase is separated (3X), and the combined organic extracts are dried over sodium sulfate and concentrated to give 4-hydroxy-5-[4-(4-trifluoromethylphenoxy)-phenoxy]-2-hexanone N,N-dimethylhydrazone (cpd. 1, Table A).

reactant | acetone N,N-dimethylhydrazone | 6.5 mmol | CN(N=C(C)C)C | C5H12N2
reactant | lithium diisopropylamide | 7.2 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propanal | 7.2 mmol | FC(C1=CC=C(OC2=CC=C(OC(C=O)C)C=C2)C=C1)(F)F | C16H13F3O3
reactant | water methylene chloride | O.C(Cl)Cl
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-5-[4-(4-trifluoromethylphenoxy)-phenoxy]-2-hexanone N,N-dimethylhydrazone | CN(N=C(C)CC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)O)C | C21H25F3N2O3
